US06380288B1
Synthesis of N′-(1-methylethylidene)isonicotinohydrazide
A four neck flask (1 liter) equipped with a thermometer, a reflux condenser and a stirrer was charged with 68.5 g (0.5 mol) of isonicotinohydrazide and 500 ml of acetone and then heated under reflux for 24 hours. The reaction liquid was cooled down to 20° C. or lower, and then crystal was filtered off and dried under reduced pressure, whereby the intended compound (white crystal) was obtained.

reactant | isonicotinohydrazide | 0.5 mol, 68.5 g | C(C1=CC=NC=C1)(=O)NN | C6H7N3O
reactant | acetone | 500 ml | CC(=O)C | C3H6O
product | N′-(1-methylethylidene)isonicotinohydrazide | CC(C)=NNC(C1=CC=NC=C1)=O | C9H11N3O
